US04973600
A solution of 2.51 g of boron tribromide in methylene chloride is added to dropwise to a solution of 0.47 g of 2,3-dichloro-4,5-dimethoxybenzaldehyde in methylene chloride at -50° to -60° C. and the mixture is stirred at -50° C. to room temperature for 1 hour. The reaction mixture is poured into water and the aqueous mixture is extracted with ethyl acetate. The extract is evaporated to remove solvent. Methanol and 10% hydrochloric acid are added to the residue and the mixture is stirred at room temperature for 1 hour. To the reaction mixture are added water, and the mixture is extracted with ethyl acetate. The extract is washed with water, dried and evaporated to remove solvent. The residue is washed with n-hexane and dried to give 0.38 g of 2,3-dichloro-4,5-dihydroxybenzaldehyde.

reactant | boron tribromide | 2.51 g | B(Br)(Br)Br | BBr3
reactant | 2,3-dichloro-4,5-dimethoxybenzaldehyde | 0.47 g | ClC1=C(C=O)C=C(C(=C1Cl)OC)OC | C9H8Cl2O3
reactant | water | O | H2O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 2,3-dichloro-4,5-dihydroxybenzaldehyde | 0.38 g | ClC1=C(C=O)C=C(C(=C1Cl)O)O | C7H4Cl2O3
